US05891902
3-(Diphenylmethyl)-2-(piperidinosulfonyl)indole (Compound 263)
Substantially the same procedure as in Example 263 was repeated using benzhydryl acetate (0.78 g, 3.41 mmol) and 2-(piperidinosulfonyl)indole (0.95 g, 3.59 mmol) to give 1.2 g (yield: 75%) of the title compound.

reactant | benzhydryl acetate | 3.41 mmol, 0.78 g | C(C)(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H14O2
reactant | 2-(piperidinosulfonyl)indole | 3.59 mmol, 0.95 g | N1(CCCCC1)S(=O)(=O)C=1NC2=CC=CC=C2C1 | C13H16N2O2S
product | 3-(Diphenylmethyl)-2-(piperidinosulfonyl)indole | 1.2 g, yield: 75% | C1(=CC=CC=C1)C(C1=C(NC2=CC=CC=C12)S(=O)(=O)N1CCCCC1)C1=CC=CC=C1 | C26H26N2O2S
